US05919814
Step A: 5-Carboxy-2,3-dihydro-1,4-benzodioxin
A mixture of 10.8 g (70 mmol) of 2,3-dihydroxybenzoic acid, 38.6 g (280 mmol) of dry potassium carbonate and 24 ml (278 mmol) of 1,2-dibromoethane in 40 ml of N,N-dimethylformamide is heated at 65° C. for 24 hours under an inert atmosphere. After cooling, the reaction mixture is diluted with water and then extracted with ether. The aqueous phase is then acidified with a 3N hydrochloric acid solution and subsequently extracted with dichloromethane. After removal of the solvent by evaporation in vacuo, the residue obtained is recrystallised from toluene to yield the title acid in the form of a white solid.

reactant | 2,3-dihydroxybenzoic acid | 70 mmol, 10.8 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | potassium carbonate | 280 mmol, 38.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 278 mmol, 24 ml | BrCCBr | C2H4Br2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Carboxy-2,3-dihydro-1,4-benzodioxin | C(=O)(O)C1=CC=CC=2OCCOC21 | C9H8O4
